US05405989
542 Milligrams of 8-phenyloctanoyl chloride was added by drops to a mixture of 140 mg of propargyl alcohol, 198 mg of pyridine and 20 ml of dry toluene with stirring and ice-cooling. After dropwise addition, the resultant solution was stirred for additional 12 hours at room temperature. The thus stirred solution was then poured into ice water. The toluene layer was separated from the resulting mixture. The aqueous layer was extracted once with toluene. These toluene layers were combined, washed with water and then with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off from the dried layer under reduced pressure. The resulting residue was subjected to chromatography on silica gel to obtain 530 mg of propargyl 8-phenyloctanoate.

reactant | 8-phenyloctanoyl chloride | C1(=CC=CC=C1)CCCCCCCC(=O)Cl | C14H19ClO
reactant | propargyl alcohol | 140 mg | C(C#C)O | C3H4O
reactant | pyridine | 198 mg | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | propargyl 8-phenyloctanoate | 530 mg, Yield: 90% | C1(=CC=CC=C1)CCCCCCCC(=O)OCC#C | C17H22O2
